US08106064B2
(3,5-Dichloro-phenyl)-(5-ethyl-2,6-dimethoxy-pyrimidin-4-yl)-acetonitrile (62):
To a stirred mixture of 4-Chloro-5-ethyl-2,6-dimethoxy-pyrimidine (1.42 g, 7 mmol) and (3,5-Dichloro-phenyl)-acetonitrile (1.3 g, 7 mmol) in anhydrous DMF (14 ml) at 0° C. (ice bath) under nitrogen atmosphere, was portionwise added 60% sodium hydride (616 mg, 15.44 mmol). After stirring for 1 hr., the mixture was further stirred at room temperature for 18 hr. The mixture was then neutralized with aqueous saturated ammonium chloride solution and the crude product was extracted with ethyl acetate and purified by silica gel column chromatography (eluent, EA:hexanes (1:10)) to afford 2.1 g (85%) of the title compound as a white solid. m.p. 121-122° C.; 1H NMR (200 MHz, CDCl3) δ 1.03 (3H, t, J=7.4 Hz), 2.03-2.57 (2H, m), 3.98 (6H, s), 5.23 (1H, s), 7.33 (3H, s).

reactant | 4-Chloro-5-ethyl-2,6-dimethoxy-pyrimidine | 7 mmol, 1.42 g | ClC1=NC(=NC(=C1CC)OC)OC | C8H11ClN2O2
reactant | (3,5-Dichloro-phenyl)-acetonitrile | 7 mmol, 1.3 g | ClC=1C=C(C=C(C1)Cl)CC#N | C8H5Cl2N
reactant | sodium hydride | 15.44 mmol, 616 mg | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 14 ml | CN(C)C=O | C3H7NO
product | (3,5-Dichloro-phenyl)-(5-ethyl-2,6-dimethoxy-pyrimidin-4-yl)-acetonitrile | 2.1 g, 85% | ClC=1C=C(C=C(C1)Cl)C(C#N)C1=NC(=NC(=C1CC)OC)OC | C16H15Cl2N3O2
